US07351719B2
150) ethyl (S)-1-(2-{2-chloro-4-[2-(2-chloro-4-trifluoromethyl-phenoxy)-acetylamino]-phenoxy}-ethyl)-pyrrolidine-2-carboxylate
Prepared analogously to Example 145 starting from N-[4-(2-bromo-ethoxy)-3-chloro-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide (Z28b) and ethyl (S )-pyrrolidine-2-carboxylate

reactant | N-[4-(2-bromo-ethoxy)-3-chloro-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | BrCCOC1=C(C=C(C=C1)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O)Cl | C17H13BrCl2F3NO3
reactant | ethyl (S )-pyrrolidine-2-carboxylate | N1[C@@H](CCC1)C(=O)OCC | C7H13NO2
product | ethyl (S)-1-(2-{2-chloro-4-[2-(2-chloro-4-trifluoromethyl-phenoxy)-acetylamino]-phenoxy}-ethyl)-pyrrolidine-2-carboxylate | ClC1=C(OCCN2[C@@H](CCC2)C(=O)OCC)C=CC(=C1)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C24H25Cl2F3N2O5
